US06756366B1
i)—A mixture of lithium (0.647 g) and dry diethyl ether (26 ml) was cooled to −30° C. Bromoethane (3.45 ml) was added dropwise while maintaining the temperature below −25° C. After 30 min. stirring at −30° C. the solution of ethyllithium was added dropwise to a suspension of copper(I) iodide (4.0 g) in dry tetrahydrofuran (40 ml), cooled to −40° C. The resulting cuprate solution was stirred at −30° C. for 30 min. and a solution of (17β)-17-[[(1,1-dimethylethyl)dimethylsilyl]oxy]estra-4,6-dien-3-one [Nickisch, K. et al, Tetrahedron Lett. 29, 1533 (1988); 2.5 g] in dry tetrahydrofuran (20 ml) was added dropwise. Stirring was continued at −30° C. for 30 min., chlorotrimethylsilane (2.58 ml) was added and stirring was continued for another 30 min. The reaction mixture was poured into a mixture of a saturated aqueous solution of ammonium chloride and concentrated ammonia (9:1). The product was extracted into ethyl acetate; the combined organic phases were washed with a saturated aqueous solution of sodium hydrogencarbonate, water and brine, dried over magnesium sulfate and concentrated under reduced pressure, to give (7α,17β)-17-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-7-ethyl-3-[(trimethylsilyl)oxy]estra-3,5-diene (2.81 g). The product was used in the following step without further purification.

reactant | lithium | 0.647 g | [Li] | Li
reactant | Bromoethane | 3.45 ml | BrCC | C2H5Br
reactant | ethyllithium | C(C)[Li]
reactant | (17β)-17-[[(1,1-dimethylethyl)dimethylsilyl]oxy]estra-4,6-dien-3-one | 2.5 g | CC(C)(C)[Si](O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1C=CC3=CC(CC[C@@H]3[C@H]1CC2)=O)(C)C | C24H38O2Si
reactant | chlorotrimethylsilane | 2.58 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 4.0 g | [Cu]I
solvent | diethyl ether | 26 ml | C(C)OCC | C4H10O
product | (7α,17β)-17-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-7-ethyl-3-[(trimethylsilyl)oxy]estra-3,5-diene | 2.81 g | CC(C)(C)[Si](O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](C=C3C=C(CC[C@@H]3[C@H]1CC2)O[Si](C)(C)C)CC)(C)C | C29H52O2Si2
